US06162930
To a well-stirred solution of 2-(4'-ethoxyphenyl)-6-ethoxybenzo[b]thiophene (0.095 g, 0.32 mmol) and 3,4,5-trimethoxybenzoyl chloride (0.159 g, 0.69 mmol) in CH2Cl2 (15 mL) was added AlCl3 (0.139 g, 1.04 mmol) portion-wise over a 5 minute period. After 30 min., water was added, and the product was isolated initially by extraction with CH2Cl2 and subsequently by extraction with EtOAc. The organic layers were separately washed with brine and then combined and dried over MgSO4. Purification by flash chromatography (silica gel, 80:20 hexane/EtOAc) afforded benzo[b]thiophene (0.110 g, 0.2 mmol, 69%) as an off-white solid. 1H-NMR (CDCl3, 360 Mhz) δ 7.65 (d, J=8.9 Hz, 1H, ArH), 7.32 (d, J=2.3 Hz, 1H, ArH), 7.29 (d, J=8.8 Hz, 2H, ArH), 7.06 (s, 2H, ArH), 7.00 (dd, J=8.9, 2.4 Hz, 1H, ArH), 6.73 (d, J=8.7 Hz, 2H, ArH), 4.12 (q, J=7.0 Hz, 2H, --CH2), 3.97 (q, J=6.9 Hz, 2H, --CH2), 3.83 (s, 3H, --OCH3), 3.73 (S, 6H, --OCH3), 1.47 (t, J=6.9 Hz, 3H, --CH3), 1.37 (t, J=7.0 Hz, 3H, --CH3).

reactant | 2-(4'-ethoxyphenyl)-6-ethoxybenzo[b]thiophene | 0.32 mmol, 0.095 g | C(C)OC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OCC | C18H18O2S
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.69 mmol, 0.159 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | AlCl3 | 1.04 mmol, 0.139 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | benzo[b]thiophene | 0.2 mmol, 0.110 g, 69% | S1C2=C(C=C1)C=CC=C2 | C8H6S
